US07842688B2
k) 6-Hydroxymethyl-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one
The solution of 7.24 g of 6-(tetrahydropyran-2-yloxymethyl)-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one in 130 ml of ethanol is admixed with 0.392 g of pyridinium p-toluenesulphonate and stirred at 60° C. over 3 hours. The reaction mixture is cooled and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.48 (1:1 EtOAc-heptane); Rt=5.51.

reactant | 6-(tetrahydropyran-2-yloxymethyl)-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one | 7.24 g | O1C(CCCC1)OCC=1C=CC2=C(N(C(CO2)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C1 | C25H41NO5Si
reactant | pyridinium p-toluenesulphonate | 0.392 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 6-Hydroxymethyl-4-(2-triisopropylsilanyloxyethyl)-4H-benzo[1,4]oxazin-3-one | OCC=1C=CC2=C(N(C(CO2)=O)CCO[Si](C(C)C)(C(C)C)C(C)C)C1 | C20H33NO4Si
